US07319104B2
2-[4-(2-{{5-[(Methoxycarbonyl)amino]pyridin-2-yl}[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{(5-aminopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and methylchloroformate.

reactant | ethyl 2-[4-(2-{(5-aminopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | NC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C27H30F3N3O3
reactant | methylchloroformate | COC(=O)Cl | C2H3ClO2
product | 2-[4-(2-{{5-[(Methoxycarbonyl)amino]pyridin-2-yl}[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | COC(=O)NC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C27H28F3N3O5
